reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1](/[C:2](=[C:4](/[C:5]([H:14])([H:15])[H:16])[H:13])[H:11])([H:8])([H:9])[H:10].[O:3]([N+:7]#[C-:6])[H:12]>>[C:1]([C@@:2]([O:3][H:12])([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6]#[N:7])[H:13])[H:11])([H:8])([H:9])[H:10],33.11928571134919
[O:1]([C:2]([C:3]([C:4](=[C:5]=[C:6]([H:13])[H:14])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C:3]([C:4]([C:5]#[C:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])[H:7],82.78168982880148
[N:1]#[C:2][C:3]([O:4][C:5]([C:6]#[N:7])([H:10])[H:11])([H:8])[H:9]>>[H:9][H:10].[N:1]#[C:2][C:3](=[O+:4][C:5](=[C:6]=[N-:7])[H:11])[H:8],82.32431030950751
[C:1]([C:2]1([H:11])[C:3]([H:12])([H:13])[C:4]1([H:14])[H:16])([H:8])([H:9])[H:10].[C:5](=[C:6]=[O:7])([H:15])[H:17]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10],72.58208436181299
[N:1](=[C:2]=[C:7]([C:6](=[N:3][N:4]=[O:5])[H:9])[H:10])[H:8]>>[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4],20.850780527814507
[O:1]([C:2]([C-:3]=[O+:4][C:5](=[O:6])[H:10])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C:3](=[O:4])[C:5](=[O:6])[H:10])([H:8])[H:9])[H:7],0.25836975047249666
[N:1]([C:2]1=[N+:7]=[C-:6][C:5]([H:12])([H:13])[C:4]([H:10])([H:11])[O:3]1)([H:8])[H:9]>>[N:1](=[C:2](/[O:3][C:4]([C:5]([C:6]#[N:7])([H:12])[H:13])([H:10])[H:11])[H:9])\[H:8],78.43868712807091
[C:1](=[C:2]([O:3][H:7])[C:4]#[N:5])([H:6])[H:8]>>[C:1]([C:2](=[O:3])[C:4]#[N:5])([H:6])([H:7])[H:8],57.272628427225484
[C:1]([C:2]([C:3]#[N:4])([C:5]#[N:6])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([H:10])[C:5]([N+:4]#[C-:3])=[N:6]1)([H:7])([H:8])[H:9],113.28682185797899
[C:1]([C:2]([C@@:3]([C:4]([H:14])([H:15])[H:16])([N:5]([C:6](=[O:7])[H:18])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C-:3]([N:5]([C:6](=[O+:7][C:4]([H:14])([H:15])[H:16])[H:18])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],104.755408105713
[C:1]([C:2]([O+:3]=[C:4]([N:5]([C-:6]([H:13])[H:15])[H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([O:3]/[C:4](=[N:5]/[C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],30.348722750201226
[O:1]=[C:2]([N:3]([C:4]([C:5]#[C:6][H:11])([H:9])[H:10])[H:8])[H:7]>>[O-:1][C+:2]([N:3]([C+:4]([C:5](=[C-:6][H:11])[H:10])[H:9])[H:8])[H:7],68.2079734030059
[C:1]([C@@:2]([O:3][H:12])([C:4]([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[O:3][C:4]1([H:13])[H:14])([H:8])([H:9])[H:10].[C:5](=[C:6]([O:7][H:12])[H:17])([H:15])[H:16],88.6019127978192
[O:1]([C:2]1([H:8])[C:3]([H:9])([H:10])[C:4](=[O:5])[C:6]1([H:11])[H:12])[H:7]>>[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C:4]([O:5][H:11])=[C:6]1[H:12])[H:7],78.05063450737549
[C:1]([N:2]([C:3]1=[N:4][C@:7]1(/[C:6](=[N:5]/[H:12])[H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([c:3]1[n:4][n:5]([H:12])[c:6]([H:13])[c:7]1[H:14])[H:11])([H:8])([H:9])[H:10],52.78820056389929
[O:1]([C:2]1([C:5]#[C:6][H:12])[C:3]([H:8])([H:9])[C:4]1([H:10])[H:11])[H:7]>>[O:1]([C:6](=[C:5]=[C:2]1[C:3]([H:8])([H:9])[C:4]1([H:10])[H:11])[H:12])[H:7],72.190314143668
[O:1]([C:2]([C:3]([C:4](=[O:5])[C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])[H:8]>>[H:13][H:15].[O:1]([C:2]([C:3]([C:4](=[O:5])[C:6](=[O:7])[H:14])([H:11])[H:12])([H:9])[H:10])[H:8],95.9642263024802
[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([O:4][H:13])[C:5]#[N:6])([H:7])([H:8])[H:9]>>[C:1]([C:2][O:4][H:13])([H:7])([H:8])[H:9].[C:3]([C:5]#[N:6])([H:10])([H:11])[H:12],82.6356110278135
[C:1]([C:2]1([C:5](=[O:6])[H:14])[C:3]([H:10])([H:11])[C:4]1([H:12])[H:13])([H:7])([H:8])[H:9]>>[C:1]([O:6][C:5](=[C:2]1[C:3]([H:10])([H:11])[C:4]1([H:12])[H:13])[H:14])([H:7])([H:8])[H:9],107.387601506239
[C:1]([C:2]([C:3](=[O:4])[O:5][C:6]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O:4][C:3](=[C:2]([H:10])[H:11])[O:5][C:6]([H:12])([H:13])[H:14])([H:7])([H:8])[H:9],108.217500671728
[O:1]([C:2][C:3]([C:4](=[O:5])[C:6]([H:8])([H:11])[H:12])([H:9])[H:10])[H:7]>>[O:1]([C:2]1([H:8])[C:3]([H:9])([H:10])[C:4](=[O:5])[C:6]1([H:11])[H:12])[H:7],29.951589282022205
[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5]#[N:6])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[H:10])([H:7])([H:8])[H:9].[C:4](=[C:5]=[N:6][H:11])([H:12])[H:13],46.453669666463796
[C:1]([C@@:2]([O:3][H:10])([C:4]([O:5][H:13])([H:11])[H:12])[H:9])([H:6])([H:7])[H:8]>>[C:1]([C@@:2]1([H:9])[O:3][C:4]1([H:11])[H:12])([H:6])([H:7])[H:8].[O:5]([H:10])[H:13],73.6591559018322
[C:1]([C:2]([C:3]([C:4](=[O:5])[C:6](=[O:7])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C@:2]1([H:12])[C:3]([H:13])([H:14])[C:4](=[O:5])[C@@:6]1([O:7][H:11])[H:15])([H:8])([H:9])[H:10],77.2721226760753
[O:1]=[C:2]([C:3]([C:4]([C:5]#[N:6])([H:10])[H:11])([H:8])[H:9])[H:7]>>[O:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[C:5]1=[N:6][C:4]1([H:10])[H:11],96.10238468780659
